US04833164
Ethyl 4-(1-hydroxy-2-naphthyl)-3-butenoate, E isomer
A suspension of sodium hydride (60% in mineral oil; 1.94 g, 0.049 mole) in dry tetrahydrofuran (20 mL) was stirred at 0°. A solution of 1-methoxymethoxy-2-naphthaldehyde (2.00 g, 0.009 mole) and 2-carboxyethyl-triphenylphosphonium bromide (prepared by the procedure of H. S. Corey, J. R. D. McCormick, and W. E. Swensen, J. Am. Chem. Soc. 86, 1884 (1964); 9.60 g, 0.023 mole) in dry dimethyl sulfoxide (15 mL) was added over 20 minutes. The mixture was allowed to warm to room temperature over 1.25 hours, then stirred at room temperature for 30 minutes. 1.0N hydrochloric acid (10 mL) was added dropwise, followed by stirring for an additional 20 minutes. The crude material was isolated by extraction with ethyl acetate and dissolved in absolute ethanol (200 mL), treated with 10 drops of concentrated sulfuric acid, and heated at reflux for 6 hours. The cooled solution was diluted with water, and the crude product isolated by extraction with ethyl acetate. The resulting oil was chromatographed with 9:1 petroleum ether/ether, to provide a solid which was recrystallized (hexane) to give the title compound (0.35 g, 15%) as a tan solid, mp 83°-84°.

reactant | sodium hydride | 0.049 mole, 1.94 g | [H-].[Na+]
reactant | 1-methoxymethoxy-2-naphthaldehyde | 0.009 mole, 2.00 g | COCOC1=C(C=CC2=CC=CC=C12)C=O | C13H12O3
reactant | 2-carboxyethyl-triphenylphosphonium bromide | [Br-].C(=O)(O)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | hydrochloric acid | 1.0N, 10 mL | Cl | ClH
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | dimethyl sulfoxide | 15 mL | CS(=O)C | C2H6OS
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | sulfuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 4-(1-hydroxy-2-naphthyl)-3-butenoate | 0.35 g, 15% | OC1=C(C=CC2=CC=CC=C12)C=CCC(=O)OCC | C16H16O3
